US07786108B2
Step 8. Preparation of (R)-7-Ethyl-5-hydroxy-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester
Add a solution of borane dimethylsulfide complex (16.0 mL, 16.0 mmol, 1M in tetrahydrofuran) dropwise to a solution of (S)-2-methyl-CBS-oxazaborolidine (7.50 mL, 7.50 mmol, 1M in toluene) in dichloromethane (100 mL) at −30° C. under nitrogen. Stir the mixture for 30 min and add a solution of tert-butyl 7-ethyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (8.60 g, 24.0 mmol) in dichloromethane (50 mL) dropwise and warm the mixture slowly to 0° C. over a period of 6 h. Pour the mixture into methanol (200 mL) at −20° C. and slowly warm the stirring mixture to room temperature over 1 h. Remove the solvents under reduced pressure and purify the residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (0 to 15%), to provide the title compound as a colorless oil (7.62 g, 88%): TLC Rf 0.49 (3:1 hexanes/ethyl acetate); 1H NMR (CDCl3, 300 MHz) δ 1.21-2.30 (m, 19H), 2.83-2.89 (m, 2H), 4.78-4.80 (m, 1H), 7.31-7.45 (m, 2H); Chiral HPLC (OD Column) 91.6% ee; APCI MS m/z 360 (M+H)+.

reactant | borane dimethylsulfide | 16.0 mmol, 1M, 16.0 mL | CSC.B
reactant | (S)-2-methyl-CBS-oxazaborolidine | 7.50 mmol, 1M, 7.50 mL | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | tert-butyl 7-ethyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 24.0 mmol, 8.60 g | C(C)C1=CC2=C(N(CCCC2=O)C(=O)OC(C)(C)C)C=C1C(F)(F)F | C18H22F3NO3
reactant | methanol | 200 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (R)-7-Ethyl-5-hydroxy-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 7.62 g, 88% | C(C)(C)(C)OC(=O)N1C2=C([C@@H](CCC1)O)C=C(C(=C2)C(F)(F)F)CC | C18H24F3NO3
